US07902195B2
A solution of 3,7-dichloro-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one (200 mg, 0.66 mmol), 1-(2-hydroxyethyl)piperazine (117 mg, 0.90 mmol, Aldrich) and triethylamine (0.27 mL, 1.94 mmol) in THF (3 mL) was stirred at room temperature for one hour. The reaction was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, and solvent was removed at reduced pressure to give 7-chloro-3-[4-(2-hydroxyethyl)piperazin-1-yl]-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one. (218 mg, 83% yield). 1H NMR (CDCl3) δ 8.48 (1H), 7.34 (1H), 4.33-4.30 (2H), 4.04-4.00 (4H), 3.76-3.72 (2H), 3.69-3.65 (2H), 3.38-3.34 (2H), 2.67-2.64 (4H), 2.62-2.58 (2H), 1.55-1.48 (2H), 0.87-0.82 (3H).

reactant | 3,7-dichloro-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one | 0.66 mmol, 200 mg | ClC=1C(N(C2=C(N1)C=NC(=C2)Cl)CCOCCC)=O | C12H13Cl2N3O2
reactant | 1-(2-hydroxyethyl)piperazine | 0.90 mmol, 117 mg | OCCN1CCNCC1 | C6H14N2O
reactant | triethylamine | 1.94 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-chloro-3-[4-(2-hydroxyethyl)piperazin-1-yl]-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one | 83% yield | ClC1=CC2=C(N=C(C(N2CCOCCC)=O)N2CCN(CC2)CCO)C=N1 | C18H26ClN5O3
